US05294618
trans-1,2,3,4,4a,5,6,10b-Octahydro-3-phenethylbenz[f]isoquinoline
Following the procedure of Example 3, step 4, 0.307 g (1.64 mmol) of crude trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline in 8 ml of anhydrous DMF was reacted with 0.249 g (1.80 mmol) of anhydrous potassium carbonate and 0.222 ml (1.64 mmol) of (2-bromoethyl)benzene. Chromatography on flash silica, eluting with 20-50% ethyl acetate/petroleum ether, gave 0.12 g (25%) of the title product as a colourless oil. The hydrochloride salt was made using ethereal hydrogen chloride. Upon evaporation of the solvent the title product hydrochloride was obtained as a white solid, m.p. 277°-283° C. (dec). NMR δ(D2O) 1.54-1.92 (4H, m), 2.72 (2H, m), 2.93-3.00 (3H, m), 3.13-3.26 (3H, m), 3.46 (2H, t), 3.71 (1H, m), 3.84 (1H, m), 7.24-7.28 (3H, m), 7.37-7.44 (6H, m). m/z (CI+, NH3) 292 (M+H)+, 200 (M-CH2Ph)+. Analysis calcd. for C21H26ClN: C, 76.92; H, 7.99; N, 4.27%. Found: C, 76.94; H, 7.98; N, 4.44%.

reactant | trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline | 1.64 mmol, 0.307 g | C1CNC[C@H]2CCC3=C([C@H]12)C=CC=C3 | C13H17N
reactant | potassium carbonate | 1.80 mmol, 0.249 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-bromoethyl)benzene | 1.64 mmol, 0.222 ml | BrCCC1=CC=CC=C1 | C8H9Br
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | trans-1,2,3,4,4a,5,6,10b-Octahydro-3-phenethylbenz[f]isoquinoline | 0.12 g, 25% | C(CC1=CC=CC=C1)N1C[C@H]2CCC3=C([C@@H]2CC1)C=CC=C3 | C21H25N
